US09108939B2
E: (S)-1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylthio)phenyl)-3-(tetrahydrofuran-3-yl)urea
2-(4-((4-(4-Aminophenylthio)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol (1.076 mmol, 500 mg), and 4-nitrophenyl carbonochloridate (1.076 mmol, 217 mg) were combined in dichloromethane (10 mL) and the reaction mixture stirred at room temperature for 1 hour. (S)-Tetrahydrofuran-3-amine hydrochloride (2.153 mmol, 266 mg), and N-ethyl-N-isopropylpropan-2-amine (2.153 mmol, 0.356 mL, 278 mg) were added and the reaction mixture stirred for 30 minutes. The reaction mixture was washed with water, and the organic layer separated, dried, and concentrated under vacuum. The residue was purified by silica column chromatography (eluting with 0-10% methanol/dichloromethane gradient) to afford the title compound (284 mg). MS m/z 578.2 [M+H]+

reactant | 2-(4-((4-(4-Aminophenylthio)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 1.076 mmol, 500 mg | NC1=CC=C(C=C1)SC1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H22F6N2OS
reactant | 4-nitrophenyl carbonochloridate | 1.076 mmol, 217 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | (S)-Tetrahydrofuran-3-amine hydrochloride | 2.153 mmol, 266 mg | Cl.O1C[C@H](CC1)N
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.153 mmol, 0.356 mL, 278 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-(4-(1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylthio)phenyl)-3-(tetrahydrofuran-3-yl)urea | 284 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)SC2=CC=C(C=C2)NC(=O)N[C@@H]2COCC2)C=C1)(F)F | C26H29F6N3O3S
